US09278973B2
A solution of 2-(3-chlorobenzoyl)hydrazinecarboximidamide (7.8 g, 36.68 mmol) in water (150 ml) was stirred overnight at 90° C. The solids were collected by filtration to afford 3-(3-chlorophenyl)-1H-1,2,4-triazol-5-amine as a off-white solid (4.5 g, 63%).

reactant | 2-(3-chlorobenzoyl)hydrazinecarboximidamide | 36.68 mmol, 7.8 g | ClC=1C=C(C(=O)NNC(N)=N)C=CC1 | C8H9ClN4O
solvent | water | 150 ml | O | H2O
product | 3-(3-chlorophenyl)-1H-1,2,4-triazol-5-amine | 4.5 g, 63% | ClC=1C=C(C=CC1)C1=NNC(=N1)N | C8H7ClN4
